US09023865B2
A mixture of 1-(3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea (70 mg, 0.123 mmol), TFA (1900 24.66 mmol), and triethylsilane (19.70 μl, 0.123 mmol) was stirred at room temperature. The reaction was concentrated, taken up in DMSO (2 mL) and purified by preparative HPLC (Reverse phase C-18, Waters SunFire PrepODB, 150×19 mm, 5u, eluting with 10-95% Acetonitrile/Water+0.1% TFA (20 mL/min) over 10 min.) to give 1-(3-cyclopropyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea (23 mg, 0.052 mmol, 42.5% yield) as an off-white solid. MS ESI calc'd. for C17H16FN5O [M+1]+ 326, found 326.

reactant | 1-(3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea | 0.123 mmol, 70 mg | C1(CC1)C1=NN(C2=C1C=NC(=C2)NC(=O)NCC2=CC=C(C=C2)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H30FN5O
reactant | TFA | 24.66 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.123 mmol, 19.70 μl | C(C)[SiH](CC)CC | C6H16Si
product | 1-(3-cyclopropyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea | 0.052 mmol, 23 mg, 42.5% yield | C1(CC1)C1=NNC2=C1C=NC(=C2)NC(=O)NCC2=CC=C(C=C2)F | C17H16FN5O
